US07262212B2
1-Benzyl-4-(4-trifluoromethoxybenzoyl)piperidine (4.8 g, 13.2.2 mmol) prepared in Reference Example 148 was dissolved in methylene chloride (60 ml), and this solution was cooled in an ice-bath. 2-Chloroethyl chloroformate (2.9 ml, 26.4 mmol) was added dropwise to the solution, and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, methanol (100 ml) was added to the residue, and the resulting mixture was heated under reflux for 15 minutes. Water was added to the reaction mixture, which was stirred for 30 minutes, and neutralized with sodium hydroxide aqueous solution. The mixture was extracted with methylene chloride. The extract was washed with brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography(n-hexane/ethyl acetate=1/1) to afford 4-(4-trifluoromethoxybenzoyl)piperidine (1.3 g, yield 36%) as a pale orange-colored crystalline powder.

reactant | 1-Benzyl-4-(4-trifluoromethoxybenzoyl)piperidine | 4.8 g | C(C1=CC=CC=C1)N1CCC(CC1)C(C1=CC=C(C=C1)OC(F)(F)F)=O | C20H20F3NO2
reactant | 2-Chloroethyl chloroformate | 26.4 mmol, 2.9 ml | ClC(=O)OCCCl | C3H4Cl2O2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-trifluoromethoxybenzoyl)piperidine | 1.3 g, yield 36% | FC(OC1=CC=C(C(=O)C2CCNCC2)C=C1)(F)F | C13H14F3NO2
